US05922727
10-a) (5-t-butyldimethylsilyloxymethylcyclopent-1-en-1-yl)methyl bromide
The carbon tetrabromide (8.5 g, 25.7 mmol) and triphenylphosphine (8.4 g, 3.22 mmol) were added in dichloromethane solution of (5-t-Butyldimethylsilyloxymethylcyclopent-1-en-1-yl)methyl alcohol (5.2 g, 21.4 mmol) under ice bath and then stirred for 30 min at 0° C. The reaction mixture was stirred for overnight at room temperature, extracted with dichloromethane, dried with MgSO4, filtered, concentrated and separated by column chromatography to give a desirable product (3.08 g).

reactant | carbon tetrabromide | 25.7 mmol, 8.5 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 3.22 mmol, 8.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (5-t-Butyldimethylsilyloxymethylcyclopent-1-en-1-yl)methyl alcohol | 21.4 mmol, 5.2 g | [Si](C)(C)(C(C)(C)C)OCC1CCC=C1CO | C13H26O2Si
solvent | dichloromethane | ClCCl | CH2Cl2
product | (5-t-butyldimethylsilyloxymethylcyclopent-1-en-1-yl)methyl bromide | 3.08 g, Yield(%): 47.2 | [Si](C)(C)(C(C)(C)C)OCC1CCC=C1CBr | C13H25BrOSi
